US08222269B2
Step 3: 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N,N-dimethylmethanesulfonamide (Compound 2-3)
Methyl (3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)[(dimethylamino)sulfonyl]acetate (2.04 g, 4.85 mmol) was dissolved in a mixture of AcOH (24.24 ml) and 6M HCl (24.24 ml) and heated to 100° C. for 3 h. The solution was then cooled to room temperature, basified with saturated aqueous sodium hydrogen carbonate and extracted with dichloromethane (3×50 mL). The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (EtOAc/Hexanes gradient) to afford the title compound as a yellow solid. 1H NMR (600 MHz, DMSO-D6) δ 8.99 (d, 1H); 8.48 (d, 1H); 8.21 (s, 1H); 7.84 (m, 2H); 7.49 (d, 1H); 7.33 (d, 1H); 4.63 (s, 2H); 2.74 (s, 6H). LRMS (APCI) calculated for C17H16ClN2O3S [M+H]+, 363.1. found 363.1.

reactant | Methyl (3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)[(dimethylamino)sulfonyl]acetate | 4.85 mmol, 2.04 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(C(=O)OC)S(=O)(=O)N(C)C | C19H17ClN2O5S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | AcOH | 24.24 ml | CC(=O)O | C2H4O2
solvent | HCl | 6M, 24.24 ml | Cl | ClH
product | 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N,N-dimethylmethanesulfonamide | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)CS(=O)(=O)N(C)C | C17H15ClN2O3S
